US06204293B1
To a solution in 1:1 THF-methanol of [4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester, prepared as in Example 272C was added a solution of lithium hydroxide hydrate (40 mg, 0.95 mmol) in water (0.5 mL) and the reaction mixture was stirred for 3.5 hours. The reaction mixture was concentrated in vacuo and the residue was partitioned between ether and water. Aqueous 2N HCl (1 mL) was added to the aqueous phase. The aqueous phase was extracted with ethyl acetate. The ethyl acetate extract was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to give [4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoyl]methionine. The acid was dissolved in acetonitrile (5 mL) and a solution of lithium hydroxide hydrate (18 mg, 0.43 mmol) in water (8 mL) was added. The mixture was concentrated and the residue was dissolved in water, frozen and lyophilized to give [4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoyl]methionine lithium salt (204 mg) as a light-yellow solid.

reactant | THF methanol | C1CCOC1.CO
reactant | [4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)COCC=1SC=CC1)C1=C(C=CC=C1)C)=O)CCSC)=O | C26H29NO4S2
reactant | lithium hydroxide hydrate | 0.95 mmol, 40 mg | O.[OH-].[Li+]
solvent | water | 0.5 mL | O | H2O
product | [4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoyl]methionine | S1C(=CC=C1)COCC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1)C1=C(C=CC=C1)C | C25H27NO4S2
